data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_454236_0,[C:1]([C:3]1([H:11])[C:2]([O:8][H:9])([H:10])[O:7]1)([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[N:6]([H:12])[H:13]>>[C:1]([C:2]([C:3](=[O:7])[H:11])([O:8][H:9])[H:10])([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[N:6]([H:12])[H:13],32.896060000019105
MR_227428_1,[C:1]([N:2]([C:3]([O:5][H:7])=[O:6])[N:4]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([O:6]/[C:3](=[N:2]/[N:4]([H:8])[H:9])[O:5][H:7])([H:10])([H:11])[H:12],71.37436000003376
MR_287583_1,[C:1]([N:4]([N:5]([C:2]([H:15])([H:16])[H:17])/[C:7](=[N:8]/[C:3]([H:18])([H:19])[H:20])[H:11])[N:6]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:4]([N:6]([H:9])[H:10])[C:7]1([H:11])[N:5]([C:2]([H:15])([H:16])[H:17])[N:8]1[C:3]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14],72.59484750001988
MR_350622_0,[N:1](/[C:2]([N:3]([H:8])[H:9])=[N:6]/[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[H:7]>>[N:1](=[C:4](/[C:5](/[C:2]([N:3]([H:8])[H:9])=[N:6]/[H:10])([H:12])[H:13])[H:11])\[H:7],72.91361749996412
MR_255137_1,[N:1]([C:3]([N:4]([H:11])[H:12])=[O:8])([O:5][C:2]([O:6][H:9])=[O:7])[H:10]>>[N:1]1([H:10])[C:2]([O:6][H:9])([O:7][C:3]([N:4]([H:11])[H:12])=[O:8])[O:5]1,72.1888550000105
MR_501845_0,[C:1]1([N:3]([H:9])[H:10])([H:8])[C:2]([H:11])([H:12])[n:7]2[c:4]([H:13])[n:6][n:5]21>>[C:1]1([N:3]([H:9])[H:10])([H:8])[C:2]([H:11])([H:12])[N:7]=[C:4]([H:13])[N:6]=[N:5]1,29.616744999987645
MR_3481_2,[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([C:4]([H:15])([H:16])[H:17])([O:8][H:9])[H:10])[H:11])([C:3]([H:12])([H:13])[H:14])=[O:7]>>[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([C:4]([H:15])([H:16])[H:17])=[O:8])[H:11])([C:3]([H:12])([H:13])[H:14])([O:7][H:9])[H:10],53.82255750001093
MR_66423_0,[N:1]([C:2]([N:4]([H:9])[H:10])=[O:7])(/[C:3]([N:5]([H:11])[H:12])=[N:6]/[H:13])[H:8]>>[N:1](=[C:2](\[N:4]([H:9])[H:10])[O:7]/[C:3]([N:5]([H:11])[H:12])=[N:6]/[H:13])\[H:8],64.27670749997631
MR_564182_0,[C@@:1]1([C:4]([H:17])([H:18])[H:19])([H:9])[C:2]([H:12])([H:13])[C:6]([N:7]([H:10])[H:11])=[C:5]([C:3]([H:14])([H:15])[H:16])[O:8]1>>[C@@:1]1([C:4]([H:17])([H:18])[H:19])([H:9])[C:2]([H:12])([H:13])[C@:6]1([C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])[N:7]([H:10])[H:11],46.39295750000685
MR_19222_0,[C@:1]1([O:5][H:6])([H:7])[C:2]([H:8])([H:9])[C:3]1=[C:4]([H:10])[H:11]>>[C:1](=[C:2](\[C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])(\[O:5][H:6])[H:7],65.93707249999326
MR_434528_0,[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[N:3]([N:4]([H:6])[H:7])[O:5]1>>[C:1]([N:3]([C:2]([H:10])[H:11])[N:4]([H:6])[H:7])([O:5])([H:8])[H:9],19.94508750000847
MR_642964_1,[C@:1]([C:2]([H:13])([H:14])[H:15])([C:6]([C:3]([H:16])([H:17])[H:18])=[C:7]([C:4]([H:19])([H:20])[H:21])[C:5]([H:22])([H:23])[H:24])([N:8]([H:11])[H:12])[O:9][H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:6](\[C:3]([H:16])([H:17])[H:18])[C:7]([C:4]([H:19])([H:20])[H:21])([C:5]([H:22])([H:23])[H:24])[O:9][H:10])[N:8]([H:11])[H:12],49.03786999999923
MR_366185_0,[C:1]([C:2]([O:5]/[C:4](=[N:6]/[N:3]([H:8])[H:9])[H:10])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:2]([N:6]([N:3]([H:8])[H:9])[C:4](=[O:5])[H:10])=[O:7])([H:11])([H:12])[H:13],24.42041749998083
MR_106775_0,[C:1]([C:2](=[O:8])[H:11])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:7]([C:3]([C:6]([H:21])([H:22])[H:23])([H:13])[H:14])([O:9][H:10])[H:12]>>[C:1]([C:2]([C:3]([C:6]([H:21])([H:22])[H:23])([H:13])[H:14])([O:8][H:10])[H:11])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:7](=[O:9])[H:12],69.08461250000073
MR_383737_2,[C:1]([N:4]([N:6]([H:9])[H:10])[O:7][H:8])([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([H:11])[H:12]>>[C:1]([N:4]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])([O:7][H:8])([H:11])[H:12],68.34792750000588
MR_113762_2,[C:1]([N:4]([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:8]/[N:7]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:4]=[C:6](\[C:3]([H:18])([H:19])[H:20])[N:8]([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])[N:7]([H:10])[H:11])([H:12])([H:13])[H:14],32.42606250002865
MR_116990_0,[C:1]([C:2]([H:10])([H:11])[H:12])([N:3]([O:4][H:6])[H:8])([O:5][H:7])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([N:3]([O:5][H:7])[H:8])([O:4][H:6])[H:9],70.94452249997758
MR_28237_0,[C:1]1([N:4]([C:3]([H:12])([H:13])[H:14])[H:7])([H:8])[C:2]([H:10])([H:11])/[C:5]1=[N:6]/[H:9]>>[C:1](=[C:2]([H:10])[H:11])(/[C:5]([N:4]([C:3]([H:12])([H:13])[H:14])[H:7])=[N:6]/[H:9])[H:8],51.53343750001199
MR_205671_2,[C:1]([C:2]([C:3]([C:5](/[C:6](=[N:9]/[H:13])[H:18])([N:8]([H:10])[H:12])[H:11])([H:16])[H:17])([H:14])[H:15])([C:4]([H:19])([H:20])[H:21])=[O:7]>>[C:1]([C:2]([C:3]([C:5](/[C:6](=[N:9]/[H:13])[H:18])=[N:8]/[H:12])([H:16])[H:17])([H:14])[H:15])([C:4]([H:19])([H:20])[H:21])([O:7][H:10])[H:11],46.40613499997357
MR_265733_1,[C:1](/[C:2](=[C:3](/[O:7][H:11])[H:13])[O:6][H:10])([O:4][H:8])([O:5][H:9])[H:12]>>[C:1](=[C:2](/[C:3]([O:5][H:9])([O:7][H:11])[H:13])[O:6][H:10])(\[O:4][H:8])[H:12],50.70011749997576
